US07635701B2
2-(Phenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid cyclopentylmethyl-amide
In a manner similar to Reference Example 1 (c), 2-(Phenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (30 mg) and cyclopentylmethylamine hydrochloride (21 mg) afforded the title compound (32 mg) after purification by trituration with diethylether.

reactant | 2-(Phenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid | 30 mg | C1(=CC=CC=C1)NC1=NC=C(C(=N1)C(F)(F)F)C(=O)O | C12H8F3N3O2
reactant | cyclopentylmethylamine hydrochloride | 21 mg | Cl.C1(CCCC1)CN
product | 2-(Phenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid cyclopentylmethyl-amide | 32 mg | C1(CCCC1)CNC(=O)C=1C(=NC(=NC1)NC1=CC=CC=C1)C(F)(F)F | C18H19F3N4O
